US08686007B2
(S)-2-(2-(4-Fluorophenyl)propyl)isoindoline-1,3-dione.
To a solution of (S)-2-(4-fluorophenyl)propan-1-ol (824 mg, 5.35 mmol, 1.0 equiv), phthalimide (0.824 g, 5.6 mmol, 1.05 equiv), and triphenyl phosphine (2.11 g, 8.03 mmol, 1.5 equiv) in dry THF (18 mL) was added dropwise diethyl azadicarboxylate (DEAD) (3.65 mL, 15% in toluene, 8.03 mmol, 1.5 equiv). The reaction mixture was stirred over 72 h and then concentrated in vacuo. Purification by silica gel chromatography (15-25% EtOAc/Hexanes) provided the title compound (0.9 g, 59%) which was characterized by 1H NMR.

reactant | (S)-2-(4-fluorophenyl)propan-1-ol | 5.35 mmol, 824 mg, 1.0 equiv | FC1=CC=C(C=C1)[C@@H](CO)C | C9H11FO
reactant | phthalimide | 5.6 mmol, 0.824 g, 1.05 equiv | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenyl phosphine | 8.03 mmol, 2.11 g, 1.5 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | (S)-2-(2-(4-Fluorophenyl)propyl)isoindoline-1,3-dione | 0.9 g, 59% | FC1=CC=C(C=C1)[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)C | C17H14FNO2
